US04788206
As in Example 134, a solution of (E)-5,5-bis(3-nitrophenyl)-2,4-pentadienoic acid 4-nitrophenyl ester (0.950 g) and 3-pyridinebutanamine (0.34 g) in tetrahydrofuran (10 mL) was stirred at room temperature for 1 hour. The crude amide that had been isolated in the usual way, was crystallized from ethyl acetate-hexane to yield 0.82 g of (E)-5,5-bis(3- nitrophenyl)-N-[4-(3-pyridinyl)butyl)-2,4-pentadienamide mp 158°-159° C.

reactant | (E)-5,5-bis(3-nitrophenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 0.950 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC(=CC=C1)[N+](=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-])=O | C23H15N3O8
reactant | 3-pyridinebutanamine | 0.34 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (E)-5,5-bis(3- nitrophenyl)-N-[4-(3-pyridinyl)butyl)-2,4-pentadienamide | 0.82 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=C/C=C/C(=O)NCCCCC=1C=NC=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C26H24N4O5
